US07345071B2
Surprisingly it was found that if the suspension of Losartan potassium in isopropyl alcohol, obtained by deprotection of trityl Losartan, kept at a temperature of 25-30 degree for a period of 6-13 hours preferably 12 hours and is cooled slowly to a temperature of 0-5° C. in 2-12 hours, then the precipitated and dried crystals isolated in 82-92% yield are identical with the polymorphic Form I of Losartan potassium. The crystal form was found to be identical with the Polymorph Form I disclosed in the patent U.S. Pat. No. 5,608,075 by differential scanning calorimetry and X-Ray powder diffraction patterns studies.

reactant | Losartan potassium | CCCCC1=NC(=C(N1CC=2C=CC(=CC2)C=3C=CC=CC3C4=N[N-]N=N4)CO)Cl.[K+]
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | trityl Losartan | 82-92% yield | CCCCC1=NC(=C(N1CC2=CC=C(C=C2)C3=CC=CC=C3C4=NN(N=N4)C(C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)CO)Cl | C41H37ClN6O
